US04173650
A 150 ml. portion of ammonia is condensed in a reaction flash and a small piece of sodium is added. The blue color is discharged by the addition of ferric chloride and 3.22 g. of sodium are added. After the cooler is discharged 5.75 ml. of acetonitrile in 10 ml. of ether are added. The reaction is cooled in a dry ice-acetone bath and 13.3 g. of 2-chlorobenzonitrile in 25 ml. of tetrahydrofuran are added dropwise. The ammonia is allowed to evaporate, the solvent is blown off with nitrogen and water is added. The mixture is extracted with methylene chloride. The organic extracts are dried over sodium sulfate and filtrate through magnesol. The filtrate is evaporated with the addition of hexanes giving β-amino-2-chlorocinnamonitrile as a white crystalline solid.

reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 2-chlorobenzonitrile | ClC1=C(C#N)C=CC=C1 | C7H4ClN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | β-amino-2-chlorocinnamonitrile | NC(=CC#N)C1=C(C=CC=C1)Cl | C9H7ClN2
